US04393224
Inoue et al., Chem Comm. 1976, 65 describes a process in which butadiene is reacted with carbon dioxide in a polar aprotic solvent in the presence of certain palladium-phosphine complexes (e.g. Pd (Ph2PCH2CH2PPh2)2) to give a five membered lactone, 2-ethylidene-hept-5-en-4-olide, in small yields (0.4 to 12.3% yield based on butadiene), together with much higher yields of butadiene oligomers (60-85% yield).

reactant | butadiene | C=CC=C | C4H6
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | palladium-phosphine | P.[Pd]
product | 2-ethylidene-hept-5-en-4-olide | 0.4 to 12.3% yield | C(C)=C1C(=O)OC(C1)C=CC | C9H12O2
